US04334088
(d) Ethyl [6,7-dibromo-1-oxo-2-phenyl-2-(3-(trimethylsilyl)-2-propynyl)-5-indanyloxy]acetate
Reaction of ethyl (6,7-dibromo-1-oxo-2-phenyl-5-indanyloxy)acetate with 1-bromo-3-(trimethylsilyl)-2propyne according to the procedure of Example 1, STEP (b), affords the title compound.

reactant | ethyl (6,7-dibromo-1-oxo-2-phenyl-5-indanyloxy)acetate | BrC1=C(C=C2CC(C(C2=C1Br)=O)C1=CC=CC=C1)OCC(=O)OCC | C19H16Br2O4
reactant | 1-bromo-3-(trimethylsilyl)-2propyne | BrCC#C[Si](C)(C)C | C6H11BrSi
product | Ethyl [6,7-dibromo-1-oxo-2-phenyl-2-(3-(trimethylsilyl)-2-propynyl)-5-indanyloxy]acetate | BrC1=C(C=C2CC(C(C2=C1Br)=O)(CC#C[Si](C)(C)C)C1=CC=CC=C1)OCC(=O)OCC | C25H26Br2O4Si
